simulator lang=spectre
global 0

ahdl_include "dut.va"

Vvdd (vdd 0) vsource dc=0.9
Vvss (vss 0) vsource dc=0
Vsig (input_quantity 0) vsource type=pwl wave=[ 0 0 20n 0.12 45n 0.45 75n 0.86 105n 0.35 120n 0.9 ]

XDUT (input_quantity vdd vss safe_output) v2_ext_limiter_model_008

tran tran stop=120n maxstep=500p
save input_quantity safe_output
